US03974285
To a solution of 3.20 g. (0.0093 mole) of 1-methyl-4-(1,4-dihydro-1,4-epoxy-9H-tribenzo[a,c,e]cyclohepten-9-ylidene)-piperidine in 105 ml. of xylene (b.p. 139°-140°) is added 3.60 g. (0.00936 mole) of tetraphenylcyclopentadienone ("tetracyclone"). The solution is stirred and refluxed for 22 hours. To the cooled solution is added 100 ml. of 3N hydrochloric acid. The crystalline solid that forms is removed by filtration and is washed thoroughly with benzene and ether. The white crystalline solid is dissolved in warm water and is treated with a solution of sodium carbonate. The resulting precipitate is extracted into benzene, washed with water, dried over magnesium sulfate, filtered, and the benzene is removed on a rotary evaporator. The crystalline residue, weighing 2.62 gm., is recrystallized from absolute methanol to give 1-methyl-4-(8H-dibenzo[a,e]furo[3,4-c]cyclohepten-8-ylidene)-piperidine, m.p. 147°-148°.

reactant | 1-methyl-4-(1,4-dihydro-1,4-epoxy-9H-tribenzo[a,c,e]cyclohepten-9-ylidene)-piperidine | 0.0093 mole | CN1CCC(CC1)=C1C2=C(C3=C(C4=C1C=CC=C4)C4C=CC3O4)C=CC=C2 | C25H23NO
reactant | tetraphenylcyclopentadienone | 0.00936 mole | C1(=CC=CC=C1)C1=C(C(=C(C1=O)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H20O
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1-methyl-4-(8H-dibenzo[a,e]furo[3,4-c]cyclohepten-8-ylidene)-piperidine | CN1CCC(CC1)=C1C2=C(C=3C(C4=C1C=CC=C4)=COC3)C=CC=C2 | C23H21NO
